US04734418
4-Amino-6,7-dimethoxy-2-(4-(2-quinolyl)piperazino)quinazoline hydrochloride
Mixed were 0.72 g (2.5 mmol) of 4-amino-6,7-dimethoxy-2-piperazinoquinazoline, 0.63 g (3.9 mmol) of 2-chloroquinoline, 0.43 g (3 mmol) of tri-n-propylamine and 15 ml of isoamyl alcohol. The mixture was refluxed for 16 hours. After cooling the reaction mixture, the resultant crystals were collected by filtration, followed by their dissolution in a mixed solvent of 10 ml of dichloromethane and 10 ml of methanol. To the solution, 2 ml of a 20% ethanol solution of hydrochloric acid was added. The solvents were distilled off to obtain 0.90 g of the above-identified compound (yield: 80%).

reactant | 4-amino-6,7-dimethoxy-2-piperazinoquinazoline | 2.5 mmol, 0.72 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
reactant | 2-chloroquinoline | 3.9 mmol, 0.63 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | tri-n-propylamine | 3 mmol, 0.43 g | C(CC)N(CCC)CCC | C9H21N
solvent | isoamyl alcohol | 15 ml | C(CC(C)C)O | C5H12O
product | 4-Amino-6,7-dimethoxy-2-(4-(2-quinolyl)piperazino)quinazoline hydrochloride | 0.90 g, yield: 80% | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C1=NC2=CC=CC=C2C=C1 | InChI=1S/C23H24N6O2.ClH/c1-30-19-13-16-18(14-20(19)31-2)26-23(27-22(16)24)29-11-9-28(10-12-29)21-8-7-15-5-3-4-6-17(15)25-21;/h3-8,13-14H,9-12H2,1-2H3,(H2,24,26,27);1H
